US05278162
1,3-Dihydro-1-phenyl-2H-Pyrrolo[2,3-b]pyridin-2-one
The compound was prepared as described by Ting, Kaminski, et al., in "Substituted 1,3-Dihydro-2H-pyrrolo[2,3-b]pyridin-2-ones as Potential Antiinflammatory Agents", J. Med. Chem., 1990, 33, 2697-2706 in 55% yield; mp 116.0°-117.0° C.; IR(KBr): 1727 cm-1 (CO); 1H NMR(CDCl3TMS): d 3.73 (s, 2H, CH2 --CO), [7.00 (dd, 1H), 7.39 (dd, 1H), 8.18 (d, 1H), 2,3-subs. Pyr], 7.51 (m, 5H, Phe); mass spec m/e 211 (M+1); Anal calcd for C13H10N2O, MW 210.24: C, 74.27; H, 4.79; N, 13.33. Found: C, 74.11; 4.73; N, 12.92.

reactant | Pyr | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | 1,3-Dihydro-1-phenyl-2H-Pyrrolo[2,3-b]pyridin-2-one | 55% yield | C1(=CC=CC=C1)N1C(CC=2C1=NC=CC2)=O | C13H10N2O
